US04971959
Methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-2,4-E,E-pentadienoate
To a stirred suspension of 0.26 g (5.41 mmol) of a 50% oil suspension of sodium hydride (previously washed with three, 10 mL portions of hexane) in 200 mL of dry tetrahydrofuran under a nitrogen atmosphere was added dropwise at room temperature 0.8 mL (4.94 mmol) of trimethylphosphonoacetate in 100 mL of dry tetrahydrofuran over a 20 minute period. The white suspension was stirred for an additional 16 hours after which time 0.99 g (4.02 mmol) of 3-(3-cyclopentoxy-4-methoxyphenyl)-E-propene-1-aldehyde in 30 mL of dry tetrahydrofuran was added dropwise over a 5 minute period. The final reaction mixture was stirred for an additional 30 minutes after which time the mixture was quenched with 50 mL of saturated ammonium chloride. After separation of the solvent layers, the organic fraction was extracted with 30 mL of ethyl acetate and the combined organic fractions were dried over sodium sulfate and concentrated. Crystallization from hexane provided the desired, analytically pure product.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylphosphonoacetate | 4.94 mmol, 0.8 mL | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 3-(3-cyclopentoxy-4-methoxyphenyl)-E-propene-1-aldehyde | 4.02 mmol, 0.99 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=O | C15H18O3
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-2,4-E,E-pentadienoate | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=C/C(=O)OC | C18H22O4
